US05158943
Thionyl chloride (16.4 g) and pyridine (3 drops) were successively added dropwise to a solution of methyl 2-(1-carboxyethyl)thio-3-(3,4-methylenedioxyphenyl)propionate (26.0 g) in ether (250 ml), followed by stirring for an hour at room temperature and for an hour under reflux. The mixture was concentrated under reduced pressure. The residual oil was dissolved in dichloromethane (50 ml) and the resultant solution was added dropwise to a mixture of aluminum chloride (AlCl3)(27.0 g) and dichloromethane (200 ml) under ice-cooling. After stirring for two hours under ice-cooling, the mixture was poured into ice-water. The dichloromethane layer was separated, washed with water, dried (MgSO4) and distilled to remove the solvent. The residual oil was dissolved in methanol (250 ml), to which a solution of sodium methoxide in methanol (28%, 10 ml) was added. The mixture was stirred for 1.5 hours at room temperature, to which 2N--HCl (250 ml) was added. The precipitated crystals was collected by filtration, affording methyl trans-4,7-dimethyl-5-oxo-1,2,4,5 -tetrahydro-3-benzothiepine-2-carboxylate (15.0 g, 62%). Recrystallization from ethyl acetate-hexane gave colorless prisms.

reactant | Thionyl chloride | 16.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 2-(1-carboxyethyl)thio-3-(3,4-methylenedioxyphenyl)propionate | 26.0 g | C(=O)(O)C(C)SC(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C14H16O6S
reactant | ether | 250 ml | CCOCC | C4H10O
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | methyl trans-4,7-dimethyl-5-oxo-1,2,4,5 -tetrahydro-3-benzothiepine-2-carboxylate | 15.0 g, 62% | C[C@H]1C(C2=C(C[C@@H](S1)C(=O)OC)C=CC(=C2)C)=O | C14H16O3S
